US05646176
Preparation 18. Dibenzyl Methylthiomethyl Phosphate
To a solution of bis(methylthiomethyl)ether (30 mg, 2.34 mmol) and molecular sieves (300 mg) in THF (100 ml) at room temperature was added dibenzyl phosphate (2.74 g, 9.85 mmol) followed by N-iodosuccinimide (608 mg, 2.71 mmol) and the solution was stirred for 4 h. The reaction mixture was then diluted with ethyl acetate and filtered through a pad of celite. The filtrate was treated with a 1:1 (v:v) solution of saturated aqueous sodium bicarbonate and 5% aqueous sodium thiosulfate. The colorless organic extract was then washed with brine, dried over sodium sulfate and concentrated in vacuo to provide 600 mg (69%) of the title compound:

reactant | bis(methylthiomethyl)ether | 2.34 mmol, 30 mg | CSCOCSC | C4H10OS2
reactant | dibenzyl phosphate | 9.85 mmol, 2.74 g | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | N-iodosuccinimide | 2.71 mmol, 608 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dibenzyl Methylthiomethyl Phosphate | 600 mg, 69% | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCSC | C16H19O4PS
